US05196539
Example 5: Preparation of N-(2-Acetyloxyethyl)-pyridinium Bromide
A solution of 100.0 grams (0.599 mol) of 2-bromoethyl acetate, 47.37 grams (0.599 mol) of pyridine and 300 milliters of acetonitrile was heated at reflux for 19 hours and then cooled, concentrated on a rotovap to an oil, heated in methyl ethyl ketone and then cooled. On prolonged standing, solid crystallized was collected and dried. The yield of product was 129.5 grams (87.85% of theory); mp=69°-74° C.

reactant | 2-bromoethyl acetate | 0.599 mol, 100.0 grams | C(C)(=O)OCCBr | C4H7BrO2
reactant | pyridine | 0.599 mol, 47.37 grams | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-Acetyloxyethyl)-pyridinium Bromide | [Br-].C(C)(=O)OCC[N+]1=CC=CC=C1 | InChI=1S/C9H12NO2.BrH/c1-9(11)12-8-7-10-5-3-2-4-6-10;/h2-6H,7-8H2,1H3;1H/q+1;/p-1
